US07825244B2
4-(6-Methoxy-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-(6-Fluoro-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (28.9 mg, 69.5 μmol), as prepared in Example 94a, DMSO (50 μL), and 10M KOMe/MeOH (140 μL, 140 μmol) was stirred in a sealed vial at 100° C. (aluminum block) for 13 hr. The crude reaction was then diluted with toluene and directly loaded onto a silica flash column (1:2 hexanes/EtOAc eluent) to provide the title compound (20.0 mg, 67%). NOe experiments support the assigned regioisomer. Select 1H-NMR resonances and nOes (300 MHz, CDCl3) δ 7.36 (s, 1H), 7.25 (s, 1H), 4.05 (s, 3H), 3.51 (m, 1H). Irradiation of the diagnostic methine proton at δ 3.51 generates an nOe to the quinazoline C5 proton at δ 7.25, but not to the quinazoline C8 proton at δ 7.36. Irradiation of the methoxy protons at δ 4.05 generates an nOe to the C5 proton at δ 7.25, but not to the C8 proton at δ 7.36. This indicates methoxy substitution at C6 of the quinazoline. LC/MS (ESI): calcd mass 428.2, found 429.3 (MH)+.

reactant | 4-(6-Fluoro-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 69.5 μmol, 28.9 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)F)N1CCOCC1 | C22H29FN4O3
reactant | DMSO | 50 μL | CS(=O)C | C2H6OS
reactant | KOMe MeOH | 140 μmol, 10M, 140 μL | O([K])C.CO
reactant | aluminum | [Al] | Al
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(6-Methoxy-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 20.0 mg, 67% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)N1CCOCC1 | C23H32N4O4
